US05387695
Preparation of (±)-cyanomethyl-5-methoxy-1,3-dimethyloxindole
To a mixture containing 50 g of 5-methoxy-l,3-dimethyloxindole, 10.57 g of Aliquat 366 in 375 ml of toluene and 100 ml of 50% NaOH was added dropwise under nitrogen, a solution containing 21.73 g of chloroacetonitrile in 125 ml of toluene over 30 min. A slightly exothermic reaction ensued (50° C.). The reaction mixture was stirred for another 10 minutes, and then cooled to 10° C. To this cooled reaction mixture was added 400 ml of ice-cold water. The reaction mixture was transferred to a separatory funnel. The layers were separated and the organic layer was extracted with 3N HCl (2×250 ml) and water (1×250 ml). The toluene extract was concentrated under reduced pressure and the resultant dark oil was filtered through silica gel (500 g) eluting with 3% methanol-methylene chloride mixture. The eluate (2 L) was concentrated to give the target compound as an oil (54.61 g; 91% yield) which slowly crystallized upon seeding. This material was sufficiently pure and was reduced to (±)-1,3-dimethyl-5-methoxy-oxindolylethylamine without further purification. A small sample of (±)-cyanomethyl-5-methoxy-1,3-dimethyloxindole was recrystallized from isopropyl ether, m.p.=75.5°-76° C. (lit: 75°-76° C.).

reactant | 5-methoxy-l,3-dimethyloxindole | 50 g | COC=1C=C2C(C(N(C2=CC1)C)=O)C | C11H13NO2
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | chloroacetonitrile | 21.73 g | ClCC#N | C2H2ClN
solvent | toluene | 375 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 125 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-cyanomethyl-5-methoxy-1,3-dimethyloxindole | 54.61 g, 91% yield | C(#N)CC1(C(N(C2=CC=C(C=C12)OC)C)=O)C | C13H14N2O2
